US04513005
(a) (Z)-8-Phenyl-5-octenoic acid
A stirred suspension of sodium hydride (12.0 g, 50% dispersion in oil) in dry dimethyl sulphoxide (100 ml) was heated to 70° to 75° C. under nitrogen for 40 minutes. The dark solution was cooled, a solution of 4-carboxybutyltriphenylphosphonium bromide (53 g) in dry dimethyl sulphoxide (100 ml) was added over 20 minutes at 20° to 25° C., and the solution was stirred for a further 10 minutes. 3-Phenyl-propionaldehyde (12.5 ml) was added with cooling to maintain a temperature of 30° to 35° C. and the mixture was stirred for a further 4 hours at room temperature, then poured on to ice-water (600 ml) and washed with chloroform. The aqueous phase was acidified and extracted with chloroform. The extract was washed with water, dried, and evaporated. The residual oil was distilled under vacuum to give the above product, b.p. 134° to 139° C./0.07 mm. 13C NMR spectroscopy showed the presence of about 5% (E)-isomer.

reactant | sodium hydride | 12.0 g | [H-].[Na+]
reactant | 4-carboxybutyltriphenylphosphonium bromide | 53 g | [Br-].C(=O)(O)CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 3-Phenyl-propionaldehyde | 12.5 ml | C1(=CC=CC=C1)CCC=O | C9H10O
solvent | dimethyl sulphoxide | 100 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 100 ml | CS(=O)C | C2H6OS
product | (Z)-8-Phenyl-5-octenoic acid | C1(=CC=CC=C1)CC\C=C/CCCC(=O)O | C14H18O2
